US08835462B2
Preparation of 2-(((3S,7S,8R,9S)-7-benzyl-8-isobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamoyl)-4-methoxypyridin-3-yl isopropyl carbonate (Compound 10)
To a solution of N-((3S,7S,8R,9S)-7-benzyl-8-(2-hydroxypropoxy)-9-methyl-2-oxo-1,5-dioxonan-3-yl)-3-hydroxy-4-methoxypicolinamide (160 mg, 0.33 mmol) in CH2Cl2 (2 mL) were added isopropyl chloroformate (44 mg, 0.36 mmol) and DMAP (44 mg, 0.36 mmol) at 0° C., and the solution was allowed to warm to room temperature overnight. The crude reaction mixture was concentrated and the residue purified via flash chromatography (SiO2, 50% EtOAc/hexanes) to furnish the product (83 mg, 44%) as white foam: IR (film) 3375, 2956, 2874, 1762, 1680 cm−1; 1H NMR (400 MHz, CDCl3) δ 8.49 (d, J=8.4 Hz, 1H), 8.32 (d, J=5.4 Hz, 1H), 7.33-7.24 (m, 2H), 7.20 (dd, J=7.2, 5.3 Hz, 3H), 7.00 (d, J=5.5 Hz, 1H), 5.08-4.91 (m, 3H), 4.01 (dd, J=11.7, 7.4 Hz, 1H), 3.92 (s, 3H), 3.50-3.42 (m, 3H), 3.37-3.30 (m, 2H), 3.17-3.11 (m, 2H), 2.37-2.29 (m, 1H), 2.00-1.83 (m, 2H), 1.49 (d, J=6.4 Hz, 3H), 1.41 (d, J=6.3 Hz, 6H), 0.97-0.93 (m, 6H); 13C NMR (101 MHz, CDCl3) δ 171.79, 162.53, 159.38, 152.03, 146.81, 141.44, 140.03, 137.78, 129.20 (2), 128.43 (2), 126.09, 110.03, 84.53, 79.27, 75.68, 73.76, 72.31, 71.92, 56.32, 51.44, 47.43, 35.09, 29.19, 21.71 (2), 19.50 (2), 18.79; ESIMS m/z 574.39 ([M+H]+).

reactant | N-((3S,7S,8R,9S)-7-benzyl-8-(2-hydroxypropoxy)-9-methyl-2-oxo-1,5-dioxonan-3-yl)-3-hydroxy-4-methoxypicolinamide | 0.33 mmol, 160 mg | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1OCC(C)O)C)=O)NC(C1=NC=CC(=C1O)OC)=O | C25H32N2O8
reactant | isopropyl chloroformate | 0.36 mmol, 44 mg | ClC(=O)OC(C)C | C4H7ClO2
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.36 mmol, 44 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(((3S,7S,8R,9S)-7-benzyl-8-isobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamoyl)-4-methoxypyridin-3-yl isopropyl carbonate | 83 mg, 44% | C(OC=1C(=NC=CC1OC)C(N[C@@H]1C(O[C@H]([C@@H]([C@H](COC1)CC1=CC=CC=C1)OCC(C)C)C)=O)=O)(OC(C)C)=O | C30H40N2O9
